US07425634B2
(6a) (2-methoxy-1,3-dioxan-5-yl)methanol
A mixture of 2-(hydroxymethyl)-1,3-propanediol (1.7 g, 16 mmol), trimethyl orthoformate (7 ml, 64.1 mmol), and p-toluenesulfonic acid monohydrate (275 mg, 1.6 mmol) was stirred at room temperature for 22 hours. To the reaction mixture, triethylamine (447 μl) was added and the mixture was concentrated. The residue was purified by silica gel column chromatography (elution solvent: heptane/ethyl acetate) to obtain the title compound (1.4 g, 59.1% yield), which is a cis and trans (1:1) mixture, as a light yellow oil.

reactant | 2-(hydroxymethyl)-1,3-propanediol | 16 mmol, 1.7 g | OCC(CO)CO | C4H10O3
reactant | trimethyl orthoformate | 64.1 mmol, 7 ml | C(OC)(OC)OC | C4H10O3
reactant | p-toluenesulfonic acid monohydrate | 1.6 mmol, 275 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | triethylamine | 447 μl | C(C)N(CC)CC | C6H15N
product | (2-methoxy-1,3-dioxan-5-yl)methanol | 1.4 g, 59.1% yield | COC1OCC(CO1)CO | C6H12O4
